US08754226B2
(R)-tert-Butyl 4-(3-(methylsulfonyloxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (Preparation D; 1.7 g, 4.7 mmol) was dissolved in dry DMSO (30 mL) and 4-bromo-2-fluorophenol (1.1 g, 5.6 mmol) and K2CO3 (0.78 g, 5.6 mmol) was added and the reaction heated to 70° C. under nitrogen. The reaction became purple then black. The reaction was cooled to ambient temperature after 3 hours and partitioned between water and EtOAc, extracted with EtOAc, washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified over silica gel (40% EtOAc in hexanes) to afford (S)-tert-butyl 4-(3-(4-bromo-2-fluorophenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (1.8 g, 3.9 mmol, 84% yield) as a white solid.

reactant | (R)-tert-Butyl 4-(3-(methylsulfonyloxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 4.7 mmol, 1.7 g | CS(=O)(=O)O[C@H]1C(N(CC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C15H26N2O6S
reactant | 4-bromo-2-fluorophenol | 5.6 mmol, 1.1 g | BrC1=CC(=C(C=C1)O)F | C6H4BrFO
reactant | K2CO3 | 5.6 mmol, 0.78 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | (S)-tert-butyl 4-(3-(4-bromo-2-fluorophenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 3.9 mmol, 1.8 g, 84% yield | BrC1=CC(=C(O[C@@H]2C(N(CC2)C2CCN(CC2)C(=O)OC(C)(C)C)=O)C=C1)F | C20H26BrFN2O4
